US05030777
This experiment is carried out in the same manner as in Example 1, except that propylene is used instead of isopropyl bromide. A dry-ice condenser is used instead of coolant condenser and propylene is sparged below the liquid level through a sparger tube. Thus, 377.8 g (2.57 mole) of mixture consisting of 70% (264.6 g; 1.8 mole) m-dichlorobenzene, 30% (113.2 g; 0.77 mole) p-dichlorobenzene and 48.0 g (0.36 mole) AlCl3 are placed in a 4-neck, one-liter flask and to it 34 g (0.81 mole) propylene is sparged below the liquid level. The temperature of reaction mixture is kept below 10° C. After overnight isomerization, decomposition of the AlCl3 complex, the organic layer shows little alkylation: only 1 to 2% dichlorocumene is formed.

reactant | propylene | C=CC | C3H6
reactant | m-dichlorobenzene | 1.8 mole, 264.6 g | ClC1=CC(=CC=C1)Cl | C6H4Cl2
reactant | p-dichlorobenzene | 0.77 mole, 113.2 g | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | AlCl3 | 0.36 mole, 48.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | propylene | 0.81 mole, 34 g | C=CC | C3H6
product | dichlorocumene | 1 to 2% | ClC=1C(=C(C=CC1)C(C)C)Cl | C9H10Cl2
